* QChipLang → SPICE Netlist
* Generated: 2026-06-01T22:01:21.139740
* Chip: QAOA_50K
.SUBCKT QuantumChip

* Qubit q0
CJ_q0 N0001 0 500000.00fF
BJ_q0 N0001 0 I='-15.00n*sin(V(N0001))'

* Qubit q1
CJ_q1 N0002 0 500000.00fF
BJ_q1 N0002 0 I='-15.00n*sin(V(N0002))'

* Resonator r0 @ 6.8GHz
L_r0 N0003 N0004 0.548nH
C_r0 N0004 0 1.0pF

* Coupler c_q0_q1: 10.0MHz
CC_c_q0_q1 N0001 N0002 1000000000.00fF

.ENDS QuantumChip
.END